US04007198
Preparation of 1(or 2 or 4)-(Phenylsulfonyl)-s-triazole-3-carboxamide
To a cooled, stirred mixture of 3 g. of 1,2,4-triazole-3-carboxamide and 4.8 g. of benzenesulfonyl chloride in 125 ml. of anhydrous ether is added rapidly 2.75 g. of triethylamine. The cooling bath is removed and the mixture is stirred at room temperature for 17.5 hours. The heterogeneous mixture is filtered and the colorless solid washed successively with ether, cold water and ether again, then air dried for approximately 10 minutes and dried in vacuo for 6 hours. The dried product is extracted with about 50 ml. of hot, dry acetonitrile then concentrated to about 25 ml. by water pump evacuation. The mixture is heated to redissolve the colorless crystalline solids which is again separated on cooling to room temperature. The solid is collected and washed with acetonitrile then dried in vacuo overnight, m.p. 150° -153° C.

reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ether | CCOCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (Phenylsulfonyl)-s-triazole-3-carboxamide | C1(=CC=CC=C1)S(=O)(=O)C1=NC(=NN1)C(=O)N | C9H8N4O3S
